US04133956
1-(2,6-Dichlorobenzoyl)-3-[6-methyl-5-(4-bromophenyl)-2-pyrazinyl]urea
A solution of 304 mg. of 2,6-dichlorobenzamide and 25 ml. of dry tetrahydrofuran was placed in a 3-necked, 50 ml. round bottomed flask. With mechanical stirring and under nitrogen the solution was cooled to about -72° C. in a dry ice/acetone bath. To this solution was added 0.6 ml. of n-butyllithium reagent over a period of 5 minutes. After the addition was complete, the mixture was stirred for 30 minutes at about -72° C. A solution of 268 ml. of 4-nitrophenyl chloroformate in 8 ml. of dry tetrahydrofuran was added dropwise over a period of 15 to 20 minutes. A pale yellow solution formed. After the addition was complete, the mixture was stirred for 30 minutes at about -72° C. giving a colorless solution. The cooling bath was adjusted so that the temperature was raised to between -40° C. and -30° C. and stirring was continued for 3 hours. The mixture was recooled to approximately -72° C. and a solution of 351 mg. of 2-amino-5-(4-bromophenyl)-6-methylpyrazine in 6 ml. of dry tetrahydrofuran was added dropwise over a period of 10 minutes. The cooling bath was removed allowing the mixture to warm to room temperature. The mixture was then heated at 50° C. for 16 hours to complete the reaction. The solvent was removed in vacuo and the residue was taken up in ethyl acetate. The ethyl acetate solution was washed 5 times with aqueous sodium carbonate solution and twice with salt water. The solvent was again evaporated and the residue dissolved in 2 ml. of tetrahydrofuran and chromatographed over silica gel using 4:1 benzene/tetrahydrofuran. The product from chromatography was dissolved in tetrahydrofuran and the solution concentrated in vacuo to an oil. Ether was added and the solution was cooled to precipitate in 2 crops 240 mg. of product. Recrystallization from tetrahydrofuran/ether yielded 132 mg. of product, m.p. 225°-227° C. An additional 69 mg. of product was obtained from the filtrate by preparative thin-layer chromatography.

reactant | 2,6-dichlorobenzamide | ClC1=C(C(=O)N)C(=CC=C1)Cl | C7H5Cl2NO
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 2-amino-5-(4-bromophenyl)-6-methylpyrazine | NC1=NC(=C(N=C1)C1=CC=C(C=C1)Br)C | C11H10BrN3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(2,6-Dichlorobenzoyl)-3-[6-methyl-5-(4-bromophenyl)-2-pyrazinyl]urea | ClC1=C(C(=O)NC(=O)NC2=NC(=C(N=C2)C2=CC=C(C=C2)Br)C)C(=CC=C1)Cl | C19H13BrCl2N4O2
